US05721230
An ice-cooled solution of 3 g (8.77 mmol) of tert.butyl [1(S)-[6,7,8,9-tetrahydropyrido[1,2-a]indol-8(S)-yl]-2-methylpropyl]carbamate, prepared as described in Example 11(iv), in 50 ml of anhydrous diethyl ether was treated dropwise under a nitrogen atmosphere over a period of 5 minutes with a solution of 0.85 ml (9.74 mmol) of oxalyl chloride in 5 ml of anhydrous diethyl ether. After an additional 5 minutes, the solvent was removed under reduced pressure and the residue was dissolved in 50 ml of dry dichloromethane. The solution was added dropwise at 0° C. to a stirred mixture of 2.2 g (8.77 mmol) of 1-phenylindole-3-acetic acid and 3.65 ml (26.3 mmol) of triethylamine in 50 ml of dry dichloromethane. The mixture was stirred for 17 hours and then the solvent was removed under reduced pressure. Purification by flash chromatography on silica gel using ethyl acetate/hexane (1:2) for the elution followed by crystallization from ethyl acetate/hexane gave 1.6 g of 3[8(S)-[1(S)-tert.butoxyformamido-2-methylpropyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-phenyl-3-indolyl)-furan-2,5-dione as an orange coloured solid of melting point 148°-150° C.

reactant | tert.butyl [1(S)-[6,7,8,9-tetrahydropyrido[1,2-a]indol-8(S)-yl]-2-methylpropyl]carbamate | 8.77 mmol, 3 g | C1=C2C=C3N(C2=CC=C1)CC[C@@H](C3)[C@H](C(C)C)NC(OC(C)(C)C)=O | C21H30N2O2
reactant | oxalyl chloride | 9.74 mmol, 0.85 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-phenylindole-3-acetic acid | 8.77 mmol, 2.2 g | C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)CC(=O)O | C16H13NO2
reactant | triethylamine | 26.3 mmol, 3.65 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3[8(S)-[1(S)-tert.butoxyformamido-2-methylpropyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-phenyl-3-indolyl)-furan-2,5-dione | 1.6 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)[C@@H]1CC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=CN(C3=CC=CC=C23)C2=CC=CC=C2)=O)=O)CC1 | C39H39N3O5
